Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Wellbutrin / morphine / 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
ALIF L5-S1
posterior decompression and fusion L5-S1

 
History of Present Illness:
___ presented to Dr. ___ office with complaints of 
worsening back pain. After review of the patients history and 
physical examination in the office, as well as radiographic 
studies, it was determined they would be a good candidate for 
anterior and posterior L5-S1 fusion. The patient was in 
agreement with the plan and consent was obtained and signed.
 
Past Medical History:
hyperlipidemia
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On examination the patient is well developed, well nourished, 
A&O x3 in NAD. AVSS.
Range of motion of the lumbar spine is somewhat limited on 
flexion, extension and lateral bending due to pain.
Ambulating well with the assistance ___, with lumbar corset brace 
for support.
Gross motor examination reveals good strength throughout the 
bilateral lower extremities.
There is no clonus present. 
Sensation is intact throughout all affected dermatomes.
The anterior and posterior lumbar incisions are clean, dry and 
intact without erythema, edema or drainage.
The patient is voiding well without a foley catheter.

 
Pertinent Results:
___ 06:00AM BLOOD WBC-6.5 RBC-3.63* Hgb-10.6* Hct-31.5* 
MCV-87 MCH-29.2 MCHC-33.7 RDW-11.8 RDWSD-37.5 Plt ___
___ 01:25AM BLOOD Neuts-63.5 ___ Monos-8.6 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-4.12 AbsLymp-1.76 AbsMono-0.56 
AbsEos-0.01* AbsBaso-0.01
___ 06:05AM BLOOD Glucose-115* UreaN-8 Creat-0.6 Na-141 
K-4.2 Cl-102 HCO3-29 AnGap-14
___ 05:40AM BLOOD Calcium-9.3 Phos-4.3 Mg-1.___riefly, ___ was admitted to the ___ Spine Surgery 
Service on ___ and taken to the Operating Room for ALIF 
L5-S1 through an anterior approach. Please refer to the dictated 
operative note for further details. The surgery was performed 
without complication, the patient tolerated the procedure well 
and was transferred to the PACU in a stable condition. 
TEDs/pnemoboots were used for postoperative DVT prophylaxis. 
Intravenous antibiotics were given per standard protocol. 
Initial postop pain was controlled with a dilaudid PCA. The 
patient remained NPO. On HD#2, she returned to the operating 
room for a posterior decompression and fusion scheduled as part 
of a staged 2-part procedure. Please refer to the dictated 
operative note for further details. The second surgery was also 
without complication and the patient was transferred to the PACU 
in a stable condition. Postoperative labs were grossly stable. A 
bupivicaine epidural pain catheter placed at the time of the 
posterior surgery remained in place until postop day one. The 
patient remained NPO until bowel function returned, then diet 
was advanced as tolerated. The patient was transitioned to oral 
pain medication when tolerating PO diet. Foley was removed on 
POD#2 from the second procedure, and the patient was able to 
void. A hemovac drain that was placed at the time of surgery was 
also removed on POD#2. A lumbar corset brace was fitted for 
comfort and support. Physical therapy was consulted for 
mobilization OOB to ambulate. Hospital course was otherwise 
unremarkable. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. ClonazePAM 0.5 mg PO QHS 
3. Gabapentin 300 mg PO TID 
4. Pregabalin 75 mg PO QHS 
5. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
6. ZOLMitriptan 5 mg oral Q2H:PRN migraine  
7. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
3. Omeprazole 20 mg PO DAILY 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
5. Diazepam 5 mg PO Q6H:PRN spasm 
RX *diazepam 5 mg 1 tablet by mouth every six (6) hours Disp 
#*90 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4-6h Disp #*90 
Tablet Refills:*0
8. Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine 15 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*60 Tablet Refills:*0
9. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
10. ZOLMitriptan 5 mg oral Q2H:PRN migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lumbar spondylosis, disc degeneration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ 
___, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.

 
Followup Instructions:
___